US03994939
To a stirred solution of 0.932 g. (7.21 m mole) of quinoline in 8.0 ml. of chloroform is added 0.840 g. (4.05 m mole) of phosphorus pentachloride. The suspension is cooled to -15° C., and then 1.81 g. (3.84 m mole) of 6-(2-phenylacetamido)-2,2-dimethyl-3-(2-[pivaloyloxymethyl]tetrazol-5-yl) penam is added. Stirring is continued for a further 30 minutes, at ca. -5° C, and then 2.15 g. (35.7 m mole) of n-propanol is added. Stirring is continued for a further 30 minutes, again at ca. -5° C., and then 25 ml. of 90:10 isopropyl ether-acetone is added, followed immediately by a solution of 1.35 g. of sodium chloride in 6.02 ml. of water. The temperature rises to 15° C. and then it is lowered again to -15° C. The precipitate which has formed is filtered off and dried, giving 1.33 g. (88% yield) of 6-amino-2,2-dimethyl-3-(2-[pivaloyloxymethyl]tetrazol-5-yl)penam hydrochloride. The infrared spectrum (KBr disc) shows absorptions at 1785 cm-1 (β-lactam) and 1750 cm-1 (ester). The NMR spectrum (DMSO-d6) shows absorptions at 6.70 ppm (singlet, 2H, pivaloyloxymethylene hydrogens), 5.75 ppm (doublet, 1H, C-5 hydrogen), 5.50 ppm (singlet, 1H, C-3 hydrogen), 5.70 ppm (doublet, 1H, C-6 hydrogen), 1.75 ppm (singlet, 3H, C-2 methyl hydrogens), 1.20 ppm (singlet, 9H, t-butyl hydrogens) and 1.10 ppm (singlet, 3H, C-2 methyl hydrogens).

reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 6-(2-phenylacetamido)-2,2-dimethyl-3-(2-[pivaloyloxymethyl]tetrazol-5-yl) penam | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C=2N=NN(N2)COC(C(C)(C)C)=O)C1=O | C22H28N6O4S
reactant | isopropyl ether acetone | C(C)(C)OC(C)C.CC(=O)C
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
solvent | n-propanol | C(CC)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-amino-2,2-dimethyl-3-(2-[pivaloyloxymethyl]tetrazol-5-yl)penam hydrochloride | 88% yield | Cl.NC1[C@@H]2N(C(C(S2)(C)C)C=2N=NN(N2)COC(C(C)(C)C)=O)C1=O | InChI=1S/C14H22N6O3S.ClH/c1-13(2,3)12(22)23-6-19-17-9(16-18-19)8-14(4,5)24-11-7(15)10(21)20(8)11;/h7-8,11H,6,15H2,1-5H3;1H/t7?,8?,11-;/m1./s1
